US09416137B2
To Hydromorphone HCl (15.0 g, 46.7 mmol) was added ethylene glycol (80 mL) and methane sulfonic acid (10 mL) and the reaction heated at 80° C. overnight. The reaction was cooled to room temperature and poured into ice/NH3(aq) (˜350 mL). The product was extracted with dichloromethane and dried over MgSO4 before concentration under reduced pressure to give (4R,4aR,7aR,12bS)-3-methyl-1,2,3,4,4a,5,6,7a-octahydrospiro[4,12-methanobenzofuro[3,2-e]isoquinoline-7,2′-[1,3]dioxolan]-9-ol (19 g, 99.9% LCMS); [M+H]+ 330.5. This was taken onto the next step without purification.

reactant | Hydromorphone HCl | 46.7 mmol, 15.0 g | CN1CC[C@]23C=4C5=CC=C(C4O[C@H]2C(=O)CC[C@H]3[C@H]1C5)O.Cl
reactant | methane sulfonic acid | 10 mL | CS(=O)(=O)O | CH4O3S
reactant | ethylene glycol | 80 mL | C(CO)O | C2H6O2
product | (4R,4aR,7aR,12bS)-3-methyl-1,2,3,4,4a,5,6,7a-octahydrospiro[4,12-methanobenzofuro[3,2-e]isoquinoline-7,2′-[1,3]dioxolan]-9-ol | 19 g, 99.9% | CN1[C@H]2[C@@H]3CCC4(OCCO4)[C@H]4[C@]3(CC1)C1=C(O4)C(=CC=C1C2)O | C19H23NO4
